US05552426
Synthesis of 1-phenyl-2-(4-hydroxyphenyl)benzimidazole
A solution of 1-phenyl-2-(4-methoxyphenyl)benzimidazole (0.60 g, 2.0 mmol) in hydrobromic acid (6 ml) and acetic acid (6 ml) was refluxed for 40 hours. The reaction mixture was extracted with diethyl ether (5×150 ml) at a pH of 3-5. The organic solvents were discarded. The aqueous phase was alkalinized to pH 8-9 and extracted with ethyl acetate (5×150 ml). The organic fractions were combined and dried over potassium carbonate, then filtered and the solvents were removed in vacuo to yield a white solid. The solid was triturated in diethyl ether and filtered to yield 0.25 grams of the desired product.

reactant | 1-phenyl-2-(4-methoxyphenyl)benzimidazole | 2.0 mmol, 0.60 g | C1(=CC=CC=C1)N1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)OC | C20H16N2O
solvent | hydrobromic acid | 6 ml | Br | BrH
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 1-phenyl-2-(4-hydroxyphenyl)benzimidazole | 0.25 grams | C1(=CC=CC=C1)N1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)O | C19H14N2O
